US04742060
2-Nitromethylenethiazolidine (2.9 g) was suspended in dry acetonitrile (30 ml), and 60% sodium hydride (0.9 g) was added under a nitrogen stream. Then, the mixture was stirred at room temperature until the generation of hydrogen ceased. A solution of 3-picolyl chloride (3.2 g) in dry acetonitrile (5 ml) was added, and the mixture was stirred at room temperature for 3 hours. Acetonitrile was distilled off under reduced pressure. Dichloromethane was added to the residue, and the mixture was washed with water. Dichloromethane was then distilled off from the dichloromethane layer. The remaining oily product was purified by column chromatography to give the desired 3-(3-pyridylmethyl)2-nitromethylenethiazolidine (0.5 g).

reactant | 2-Nitromethylenethiazolidine | 2.9 g | [N+](=O)([O-])C=C1SCCN1 | C4H6N2O2S
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-picolyl chloride | 3.2 g | N1=CC(=CC=C1)CCl | C6H6ClN
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-(3-pyridylmethyl)2-nitromethylenethiazolidine | 0.5 g | N1=CC(=CC=C1)CN1C(SCC1)=C[N+](=O)[O-] | C10H11N3O2S
